US04082851
By replacing in Example 289 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide with an equimolar amount of 4-benzyl-3-n-butoxy-5-sulfamyl-N-(3'-piperidinopropyl)benzamide and following the procedure described, (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)-3-piperidinopropylamine is obtained as a hemihydrate with a melting point of 98°-101° C.

reactant | 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide | C(CCC)NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
reactant | 4-benzyl-3-n-butoxy-5-sulfamyl-N-(3'-piperidinopropyl)benzamide | C(C1=CC=CC=C1)C1=C(C=C(C(=O)NCCCN2CCCCC2)C=C1S(N)(=O)=O)OCCCC | C26H37N3O4S
product | (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)-3-piperidinopropylamine | C(C1=CC=CC=C1)C1=C(C=C(CNCCCN2CCCCC2)C=C1S(N)(=O)=O)OCCCC | C26H39N3O3S
